US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(2-methoxy-2-oxoethyl)ureido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(2-ethoxy-2-oxoethyl)ureido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (7 mg, 10.40 mmol) was dissolved in dioxane (2 ml) and methanol (1 ml). A solution of sodium hydroxide (1N, 0.021 ml, 0.021 mmol) was added. The mixture was stirred at 70° C. for 2 h. The solvent was removed under reduced pressure and the residue was purified by prep. HPLC to afford the title compound as a white solid (2 mg, 29.2%). LCMS: m/e 659.4 (MH+), 2.84 min (method 3). 1H NMR (500 MHz, MeOD) δ ppm 7.86 (d, J=8.2 Hz, 2H), 7.14 (d, J=7.9 Hz, 2H), 5.23-5.38 (m, 1H), 4.74 (s, 1H), 4.62 (s, 1H), 3.91 (s, 2H), 3.71-3.78 (m, 3H), 2.95-3.10 (m, 1H), 2.46-2.62 (m, 1H), 2.12-2.25 (m, 1H), 2.05 (s, 1H), 1.99-2.03 (m, 1H), 1.91-1.99 (m, 6H), 1.89 (br. s., 2H), 1.76-1.83 (m, 2H), 1.71-1.76 (m, 4H), 1.69 (br. s., 1H), 1.48 (br. s., 4H), 1.31 (br. s., 4H), 1.19 (s, 3H), 1.07 (br. s., 3H), 1.05 (s, 3H), 0.97 (s, 3H), 0.96 (s, 3H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(2-ethoxy-2-oxoethyl)ureido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 10.40 mmol, 7 mg | C(C)OC(CNC(NC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)=O)=O | C42H60N2O5
reactant | sodium hydroxide | 0.021 mmol, 1N, 0.021 ml | [OH-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 1 ml | CO | CH4O
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-(2-methoxy-2-oxoethyl)ureido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 2 mg, 29.2% | COC(CNC(NC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)=O)=O | C41H58N2O5
